US05665883
f) (2S,3S)-1-t-Butyloxycarbonyl-3-hydroxy-2-phenylpiperidine
Di-t-butyldicarbonate (1.36 g, 6.2 mmol) was added to a solution of (-)-3-hydroxy-2-phenylpiperidine (1 g) (Description 1 (e))in dichloromethane (8 ml) under nitrogen and the mixture stirred at 23° C. for 3h. The solvent was removed in vacuo, and the residue purified by silica-gel chromatography using 10-30% ethyl acetate in hexane as eluant to provide the title compound (1.4 g, 89%) as a clear, viscous oil. 1H NMR (CDCl3) δ7.50-7.42 (m), 7.40-7.14 (m), 5.36 (d, J=5.6Hz), 4.50 (m), 4.44 (m), 4.12-3.92 (m), 3.02 (ddd, J=3.0, 12.5, 12.5 Hz), 2.87 (ddd, J=3.0, 12.5, 12.5 Hz), 1.88-1.66 (m), 1.46 (s), 1.36 (s).

reactant | Di-t-butyldicarbonate | 6.2 mmol, 1.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (-)-3-hydroxy-2-phenylpiperidine | 1 g | OC1C(NCCC1)C1=CC=CC=C1 | C11H15NO
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (2S,3S)-1-t-Butyloxycarbonyl-3-hydroxy-2-phenylpiperidine | 1.4 g, 89% | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)O)C1=CC=CC=C1 | C16H23NO3
